US08283353B2
2′-methyl-4′-{[2-methyl-5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile (1.20 g), 3N hydrochloric acid (15 mL) and tetrahydrofuran (15 mL) was stirred under refluxing for 15 hr. The reaction mixture was neutralized with 1 M aqueous sodium hydroxide solution (45 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow oil (1.10 g, quantitative).

reactant | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile | 1.20 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC(=C(C=C2)C=2C(=CC=CC2)C#N)C)CCC)N=C(N1)C | C32H35N5O3
reactant | hydrochloric acid | 3N, 15 mL | Cl | ClH
reactant | sodium hydroxide | 1 M, 45 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2′-methyl-4′-{[2-methyl-5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.10 g | CC1=C(C=CC(=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)C2CCC(CC2)=O)=O)C=2C(=CC=CC2)C#N | C30H31N5O2
